US07700625B2
A mixture of 3-methoxyphthalic anhydride (24.0 g, 134.8 mmol) and formamide (120 ml) was stirred and held at 210° C. for 5 hours and was then allowed to cool to room temperature overnight. Water (100 ml) was added and the solid material filtered off under reduced pressure. The crude product was washed sequentially with 50% aqueous acetone (50 ml) and diethyl ether (200 ml) and sucked dry under reduced pressure to afford 3-methoxyphthalimide (8.95 g, 37%) as an off-white solid. 1H NMR (DMSO-d6) 11.08 (1H, br s), 7.78 (1H, dd), 7.45 (1H, d), 7.36 (1H, d), 3.93 (3H, s). MS: [M+H]+ 178.

reactant | 3-methoxyphthalic anhydride | 134.8 mmol, 24.0 g | COC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O4
reactant | formamide | 120 ml | C(=O)N | CH3NO
solvent | Water | 100 ml | O | H2O
product | 3-methoxyphthalimide | 8.95 g, 37% | COC1=C2C(C(=O)NC2=O)=CC=C1 | C9H7NO3
